US08034812B2
Production of N-{6-[(4-aminophenyl)thio]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide
To a solution of N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)-2-methylcyclopropanecarboxamide (2.0 g, 6.10 mmol) in N,N-dimethylformamide (20.0 mL) were added potassium carbonate (1.27 g, 9.14 mmol) and 4-aminothiophenol (0.92 g, 7.31 mmol), and the mixture was stirred at 80° C. for 4 hr. After cooling the mixture to room temperature, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was collected by filtration and washed with ethyl acetate to give the title compound (1.53 g, 77%) as brown crystals.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)-2-methylcyclopropanecarboxamide | 6.10 mmol, 2.0 g | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2C(C2)C | C11H11IN4O
reactant | potassium carbonate | 9.14 mmol, 1.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-aminothiophenol | 7.31 mmol, 0.92 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20.0 mL | CN(C=O)C | C3H7NO
product | N-{6-[(4-aminophenyl)thio]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide | 1.53 g, 77% | NC1=CC=C(C=C1)SC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C16H15N5OS
